US04138256
Bis-(β-cyanoethyl-2-methoxyethyl-phenylphosphonium iodide
8.5 g (0.04 mole) of bis-(β-cyanoethyl)-phenylphosphine are dissolved in 50 ml of absolute acetonitrile in a nitrogen atmosphere. Then 7.71 g (0.04 mole) of 1-iodo-2-methoxyethane are added and the mixture is refluxed for 12 hours. The solvent is distilled off to yield 13.2 g (82% of theory) of the product in the form of a solid, glassy substance.

reactant | bis-(β-cyanoethyl)-phenylphosphine | 0.04 mole, 8.5 g | C(#N)CCP(C1=CC=CC=C1)CCC#N | C12H13N2P
reactant | 1-iodo-2-methoxyethane | 0.04 mole, 7.71 g | ICCOC | C3H7IO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | β-cyanoethyl-2-methoxyethyl-phenylphosphonium iodide | [I-].C(#N)CC[PH+](C1=CC=CC=C1)CCOC | InChI=1S/C12H16NOP.HI/c1-14-9-11-15(10-5-8-13)12-6-3-2-4-7-12;/h2-4,6-7H,5,9-11H2,1H3;1H
